US07858781B2
(1) Step A: 4-(2-Nitro-phenoxy)-1H-indole-2-carboxylic acid ethyl ester (130)
4-Hydroxy-1H-indole-2-carboxylic acid ethyl ester (0.5 g, 2.436 mmol) and 2-fluoro-nitro-benzene (0.257 ml, 2.436 mmol) are dissolved in 10 ml of dimethylformamide. After addition of potassium carbonate (0.67 g, 4.87 mmol) the mixture is stirred over night at room temperature. Then the reaction mixture is evaporated under reduced pressure, dissolved with ethyl acetate and washed with water. The organic layers are dried over sodium sulfate and evaporated. The crude product is used in the next step without further purification.

reactant | 4-Hydroxy-1H-indole-2-carboxylic acid ethyl ester | 2.436 mmol, 0.5 g | C(C)OC(=O)C=1NC2=CC=CC(=C2C1)O | C11H11NO3
reactant | 2-fluoro-nitro-benzene | 2.436 mmol, 0.257 ml | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | 4.87 mmol, 0.67 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-(2-Nitro-phenoxy)-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=CC(=C2C1)OC1=C(C=CC=C1)[N+](=O)[O-] | C17H14N2O5
